US09212168B2
(a) (2S,4S)-2-{4-[5′-Chloro-4′-({6-[(R)-4-(3-hydroxy-2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-2′-trifluoromethoxy-biphenyl-4-yl]-1H-imidazol-2-yl}-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester
To a round bottom flask was added (2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester (5.0 g, 11.8 mmol) and (R)-5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenylboronic acid (6.75 g, 12.4 mmol; Preparation 44), potassium carbonate (5.73 g, 41.4 mmol), and bis(di-tert-butyl(4-dimethylaminophenyl)-phosphine)dichloropalladium(II) (0.092 g, 0.130 mmol), followed by degassed tetrahydrofuran (50 mL) and water (1.28 mL). The reaction mixture was degassed with nitrogen for 5 min then heated at 65° C. for 4 h, and cooled to RT. Water (100 mL) was added and the reaction mixture was extracted with EtOAc (200 mL). The organic layer was washed with NaOH (2×100 mL), water (2×200 mL) and brine, dried over Na2SO4 and evaporated to give crude product (12.25 g). The crude product was purified by flash chromatography (150 g silica gel, 50-100% EtOAc (10 min), then 100% EtOAc (30 min)) to give the title intermediate (4.2 g; 41% yield) HPLC Method B: Retention time 15.29 min.

reactant | (2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 11.8 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)Br | C19H24BrN3O3
reactant | (R)-5-chloro-4-(6-(2-methyl-4-pivaloylpiperazin-1-yl)nicotinamido)-2-(trifluoromethoxy)phenylboronic acid | 12.4 mmol, 6.75 g | ClC=1C(=CC(=C(C1)B(O)O)OC(F)(F)F)NC(C1=CN=C(C=C1)N1[C@@H](CN(CC1)C(C(C)(C)C)=O)C)=O | C23H27BClF3N4O5
reactant | potassium carbonate | 41.4 mmol, 5.73 g | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)-phosphine)dichloropalladium(II) | 0.130 mmol, 0.092 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4S)-2-{4-[5′-Chloro-4′-({6-[(R)-4-(3-hydroxy-2,2-dimethyl-propionyl)-2-methyl-piperazin-1-yl]-pyridine-3-carbonyl}-amino)-2′-trifluoromethoxy-biphenyl-4-yl]-1H-imidazol-2-yl}-4-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.2 g, 41% yield | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)OC)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)Cl)NC(=O)C=1C=NC(=CC1)N1[C@@H](CN(CC1)C(C(CO)(C)C)=O)C)OC(F)(F)F | C42H49ClF3N7O7
